US09382239B2
Preparation of Nitrobenzamide
The free amine obtained from the BOC deprotection step was dissolved in pyridine and nitrobenzoyl chloride (1.2 equiv.) was added to this solution. After stirring for 2 h at 90° C., the reaction mixture was concentrated and the resulting crude product was used for the next step without further purification.

reactant | nitrobenzoyl chloride | 1.2 equiv. | [N+](=O)([O-])C1=C(C(=O)Cl)C=CC=C1 | C7H4ClNO3
reactant | pyridine | N1=CC=CC=C1 | C5H5N
product | Nitrobenzamide | [N+](=O)([O-])C1=C(C(=O)N)C=CC=C1 | C7H6N2O3
